US08022062B2
6-Aminomethyl-quinoline:
Combine 6-quinolinecarbonitrile (1.0 g, 6.49 mmol), Raney® 3201 nickel (slurry in water, 0.2 g), 2N ammonia in methanol (20 mL) and hydrogenate at 50 psi for 1 h. Filter the reaction mixture through a pad of Celite®, remove the solvent and purify by SCX chromatography to obtain the title compound as a yellow oil (0.8 g, 78%).

reactant | 6-quinolinecarbonitrile | 6.49 mmol, 1.0 g | N1=CC=CC2=CC(=CC=C12)C#N | C10H6N2
reactant | ammonia | 2N | N | H3N
solvent | methanol | 20 mL | CO | CH4O
catalyst | nickel | 0.2 g | [Ni] | Ni
product | 6-Aminomethyl-quinoline | 0.8 g, 78% | NCC=1C=C2C=CC=NC2=CC1 | C10H10N2
